US08729074B2
3-(3-(5,6-Dimethoxy-3-pyridinyl)imidazo[1,2-a]pyridin-6-yl)-1,3-oxazolidin-2-one
To a 5 mL microwave tube was added 6-bromo-3-(5,6-dimethoxypyridin-3-yl)imidazo[1,2-a]pyridine (0.070 g, 0.21 mmol), 2-oxazolidinone (0.027 g, 0.31 mmol), copper(I) iodide (4.0 mg, 0.021 mmol), (1R,2R)—N1,N2-dimethylcyclohexane-1,2-diamine (0.0033 ml, 0.021 mmol), potassium carbonate (0.025 ml, 0.42 mmol), and dioxane (3 mL). The resulting reaction mixture was sealed and heated to 100° C. in closed system for 6 h. The mixture was cooled to rt and the solvent was removed. The crude product was purified using SiO2 chromatography (Teledyne Isco RediSep®, 12 g SiO2, methylene chloride:methanol=94%:6%, Flow=30 mL/min). A peak at 15 min was collected. The solvent was removed in vacuo to afford the desired product as white solid (20 mg). MS (ESI pos. ion) m/z: 341.0. Calcd exact mass for C14H12BrN3O2: 340.12. 1H NMR (300 MHz, DMSO-d6) δ ppm 3.87 (s, 3H) 3.94 (s, 3H) 4.12 (t, J=7.89 Hz, 2H) 4.46 (t, J=7.89 Hz, 2H) 7.57 (s, 1H) 7.63 (d, J=1.61 Hz, 1H) 7.69-7.75 (m, 1H) 7.79 (s, 1H) 7.98 (s, 1H) 8.72 (s, 1H).

reactant | 6-bromo-3-(5,6-dimethoxypyridin-3-yl)imidazo[1,2-a]pyridine | 0.21 mmol, 0.070 g | BrC=1C=CC=2N(C1)C(=CN2)C=2C=NC(=C(C2)OC)OC | C14H12BrN3O2
reactant | 2-oxazolidinone | 0.31 mmol, 0.027 g | O1C(NCC1)=O | C3H5NO2
reactant | (1R,2R)—N1,N2-dimethylcyclohexane-1,2-diamine | 0.021 mmol, 0.0033 ml | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium carbonate | 0.42 mmol, 0.025 ml | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.021 mmol, 4.0 mg | [Cu]I
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 3-(3-(5,6-Dimethoxy-3-pyridinyl)imidazo[1,2-a]pyridin-6-yl)-1,3-oxazolidin-2-one | 20 mg | COC=1C=C(C=NC1OC)C1=CN=C2N1C=C(C=C2)N2C(OCC2)=O | C17H16N4O4
